US04096264
A solution of 1.0 g. of 3-amino-6-(phenylthio) imidazo [1,2-a] pyridine in 25 ml. of chloroform containing 0.401 g. of triethyl amine is treated dropwise with 0.378 g. of methylchloroformate. The reaction mixture is stirred for 3 hours at room temperature. The chloroform is removed in vacuo and the residue is triturated with water. The solids are collected by filtration, washed well with water and dried. Recrystallization from dimethylformamideethane yields pure 3-(methoxycarbonylamino) 6-(phenylthio) imidazo [1,2-a] pyridine m.p. 211°-215° C.

reactant | 3-amino-6-(phenylthio) imidazo [1,2-a] pyridine | NC1=CN=C2N1C=C(C=C2)SC2=CC=CC=C2 | C13H11N3S
reactant | chloroform | 0.401 g | C(Cl)(Cl)Cl | CHCl3
reactant | methylchloroformate | COC(=O)Cl | C2H3ClO2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 3-(methoxycarbonylamino) 6-(phenylthio) imidazo [1,2-a] pyridine | COC(=O)NC1=CN=C2N1C=C(C=C2)SC2=CC=CC=C2 | C15H13N3O2S
